US04621901
A solution of 2.95 g of p-[trans-4-(4-methoxy-3-butenyl)cyclohexyl]benzonitrile in 100 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) was heated to reflux for 15 minutes. The reaction mixture was subsequently poured into 100 ml of water and extracted three times with 100 ml of diethyl ether each time. The organic phases were washed twice with 100 ml of water each time, dried over magnesium sulphate and concentrated, whereby 2.6 g (93%) of 4-[trans-4-(p-cyanophenyl)cyclohexyl]butyraldehyde were obtained as a slightly yellowish oil; Rf-value (toluene/ethyl acetate vol. 95:5) 0.23.

reactant | p-[trans-4-(4-methoxy-3-butenyl)cyclohexyl]benzonitrile | 2.95 g | COC=CCC[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C18H23NO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 2N, 100 ml | O1CCCC1 | C4H8O
product | 4-[trans-4-(p-cyanophenyl)cyclohexyl]butyraldehyde | 2.6 g, 93% | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCC=O | C17H21NO
